US09399623B2
2-(3-Azetidin-1-yl-cyclopentyl)-6-chloro-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexylmethyl)-amide (157)
The title compound was synthesized according to the procedure described in example 133 using 6-chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxycyclohexyl methyl)-amide, and azetidine hydrochloride in glacial acetic acid. 1H NMR (400 MHz, DMSO-d6): δ 8.76 (t, J=6.0 Hz, 1H), 8.11-8.06 (m, 1H), 7.97-7.94 (m, 1H), 7.76-7.73 (m, 1H), 7.64-7.54 (m, 1H), 4.71 (s, 1H), 3.47-3.16 (m, 1H), 3.07-2.49 (m, 4H), 2.23-2.02 (m, 1H), 2.01-1.95 (m, 6H), 1.90 (s, 6H), 1.64-1.59 (m, 8H. m/z: 478.3 [M+H]+

reactant | 6-chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxycyclohexyl methyl)-amide | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)=O)F | C22H23ClF2N2O3
reactant | azetidine hydrochloride | Cl.N1CCC1
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3-Azetidin-1-yl-cyclopentyl)-6-chloro-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexylmethyl)-amide | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)N1CCC1)F | C25H30ClF2N3O2
